US07732477B2
6-Bromo-1-benzofuran-2-carboxylic acid
8.0 g (39.8 mmol) of 4-bromo-2-hydroxybenzaldehyde and 1.47 g (3.98 mmol) of tetra-N-butylammonium iodide are, together with 22 g (159.19 mmol) of anhydrous potassium carbonate, initially charged. 9.07 g (83.57 mmol) of methyl chloroacetate are added. The reaction mixture is heated at 130° C. for 4 h and then cooled to 0° C. using an ice bath. 100 ml of THF and 13.4 g (238.8 mmol) of potassium hydroxide in 50 ml of water are added and the mixture is then stirred at RT overnight. The solvent is removed under reduced pressure. The residue is diluted with water and acidified with conc. hydrochloric acid. The product is filtered off and dried under high vacuum. For fine purification, the product is purified on silica gel 60 (mobile phase: toluene→toluene/acetic acid 50:1→toluene/ethyl acetate/acetic acid 35:5:1). The solvent is removed under reduced pressure. 3.8 g (40% of theory) of the title compound are isolated.

reactant | 4-bromo-2-hydroxybenzaldehyde | 39.8 mmol, 8.0 g | BrC1=CC(=C(C=O)C=C1)O | C7H5BrO2
reactant | potassium carbonate | 159.19 mmol, 22 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroacetate | 83.57 mmol, 9.07 g | ClCC(=O)OC | C3H5ClO2
reactant | potassium hydroxide | 238.8 mmol, 13.4 g | [OH-].[K+]
solvent | water | 50 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 6-Bromo-1-benzofuran-2-carboxylic acid | BrC1=CC2=C(C=C(O2)C(=O)O)C=C1 | C9H5BrO3
